US06162791
Preparation of {3-methoxy-[1,2,4]-thiadiazol-5-yl}carbamoyl-L-leucine-L-proline.
In a similar manner as shown in example 18, base saponification of 3-methoxy-5-(N-L-leucine-L-proline)carbamoyl-[1,2,4]-thiadiazole methyl ester using a solution of 1N sodium hydroxide followed by acidification using a solution of 1N HCl {3-methoxy-[1,2,4]-thiadiazol-5-yl}carbamoyl-L-leucine-L-proline as a white solid (55%). M.p. 209-21 1° C.; 1H-NMR (MeOD) δ4.64-4.67 (dd, J=8.1, 2.3 Hz, 1H, NCH), 4.44-4.45 (m, 1H, NCHpro), 3.94 (s, 3H, OMe), 3.60-3.86 (m, 2H, NCH2 pro), 1.54-2.27 (m, 6H, 3CH2), 0.94-1.01 (two d, J=6.4 Hz, 7H, 2CH3 +CH); MS (m/z) 386 (M+ +1), 271, 229, 158, 116, 86.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | HCl {3-methoxy-[1,2,4]-thiadiazol-5-yl}carbamoyl-L-leucine L-proline | 1N | COC1=NSC(=N1)NC(=O)N[C@@H](CC(C)C)C(=O)O.Cl.N1[C@H](C(=O)O)CCC1
product | {3-methoxy-[1,2,4]-thiadiazol-5-yl}carbamoyl-L-leucine L-proline | COC1=NSC(=N1)NC(=O)N[C@@H](CC(C)C)C(=O)O.N1[C@H](C(=O)O)CCC1 | InChI=1S/C10H16N4O4S.C5H9NO2/c1-5(2)4-6(7(15)16)11-8(17)12-10-13-9(18-3)14-19-10;7-5(8)4-2-1-3-6-4/h5-6H,4H2,1-3H3,(H,15,16)(H2,11,12,13,14,17);4,6H,1-3H2,(H,7,8)/t6-;4-/m00/s1
